US04604390
5-Nitro-2-[2-(diethylamino)ethyl]-2H-[1]benzopyrano-[4,3,2-cd]indazol-8-ol, hydrochloride
A mixture of 6.0 g of 1-chloro-6-hydroxy-4-nitro-9H-xanthen-9-one and 5.4 g of [2-(diethylamino)ethyl]-hydrazine and 3.9 ml of diisopropylethylamine in 100 ml of N,N-dimethylformamide was stirred at 25° C. for three hours. The mixture was evaporated and the residue crystallized from 2-propanol to afford the title compound, a salt with one equivalent of hydrogen chloride, mp 285° C. (decomposition).

reactant | 1-chloro-6-hydroxy-4-nitro-9H-xanthen-9-one | 6.0 g | ClC1=CC=C(C=2OC3=CC(=CC=C3C(C12)=O)O)[N+](=O)[O-] | C13H6ClNO5
reactant | [2-(diethylamino)ethyl]-hydrazine | 5.4 g | C(C)N(CCNN)CC | C6H17N3
reactant | diisopropylethylamine | 3.9 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 5-Nitro-2-[2-(diethylamino)ethyl]-2H-[1]benzopyrano-[4,3,2-cd]indazol-8-ol, hydrochloride | Cl.[N+](=O)([O-])C1=C2C=3C(=NN(C3C=C1)CCN(CC)CC)C1=C(O2)C=C(C=C1)O | InChI=1S/C19H20N4O4.ClH/c1-3-21(4-2)9-10-22-14-7-8-15(23(25)26)19-17(14)18(20-22)13-6-5-12(24)11-16(13)27-19;/h5-8,11,24H,3-4,9-10H2,1-2H3;1H
